US05041453
To a stirred solution of sodium 3-(2-quinolinylmethyloxy)phenoxide pentahydrate (3.63 g, 10 mmol) in acetone (85 ml) and dimethylformamide (10 ml) at room temperature are added successively potassium carbonate (2.07 g, 15 mmol) and 2-cyano-6-bromomethylbenzoxazole (1.90 g, 8.02 mmol). The resulting solution-suspension is refluxed for 16 hours and concentrated. Water (100 ml) and ethyl acetate (200 ml are added. Extraction with ethyl acetate is followed by washing with water and brine, drying (MgSO4) and evaporation under reduced pressure. The residue is subjected to flash chromatography over silica gel. Elution with 33% ethyl acetate in hexane and concentration of the appropriate fractions provides 2-cyano-6-[3-(2-quinolinylmethyloxy)phenoxymethyl]benzoxazole which is used directly in the next step.

reactant | sodium 3-(2-quinolinylmethyloxy)phenoxide pentahydrate | 10 mmol, 3.63 g | O.O.O.O.O.N1=C(C=CC2=CC=CC=C12)COC=1C=C([O-])C=CC1.[Na+]
reactant | potassium carbonate | 15 mmol, 2.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-cyano-6-bromomethylbenzoxazole | 8.02 mmol, 1.90 g | C(#N)C=1OC2=C(N1)C=CC(=C2)CBr | C9H5BrN2O
solvent | acetone | 85 ml | CC(=O)C | C3H6O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-cyano-6-[3-(2-quinolinylmethyloxy)phenoxymethyl]benzoxazole | C(#N)C=1OC2=C(N1)C=CC(=C2)COC2=CC(=CC=C2)OCC2=NC1=CC=CC=C1C=C2 | C25H17N3O3
